US04418068
6-methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene
6-hydroxy-2-(4-isopropoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, succinate

reactant | 6-hydroxy-2-(4-isopropoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(C)C)C1 | C31H33NO4S
reactant | succinate | C(CCC(=O)[O-])(=O)[O-]
product | 6-methoxy-2-(4-methoxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC)C1 | C30H31NO4S
